US06384226B2
A solution of potassium hydroxide (90% titre; 30.3 g; 0.48 mols) in water (225 mL) and ethanol (65 mL) is added with ethyl 2-(4-methylphenyl)-6-methylimidazo[1,2-a]-pyridine-3-glyoxalate (141.5 g; 0.44 mols). The suspension is refluxed to obtain a yellow-orange solution, which is concentrated to reach a temperature of 98-100° C. and added with hydrazine (51.7% titre, 27.5 g; 0.44 mols). The solution is refluxed for 14 hours, then cooled to about 60° C., added with potassium hydroxide (90% titre, 54.9 g; 0.88 mols), then distilled under atmospheric pressure to reach the inner temperature of 122÷124° C., keeping the resulting suspension under reflux until nitrogen evolution ceases. The mixture is cooled to about 100° C., diluted with water (500 mL), cooled at room temperature and filtered through Celite. The resulting clear solution is dropped in about one hour into an acetic acid solution (91 g; 1.52 mols) in methanol (500 mL). The resulting suspension is cooled to 0÷5° C., filtered and the solid is washed with water, then dried at 60° C. under vacuum to obtain 2-(4-methylphenyl)-6-methylimidazo[1,2-a]-pyridine-3-acetic acid (118.4 g, 98.5% titre, K.F. 1.4%, yield 96.5%).

reactant | potassium hydroxide | 0.48 mols, 30.3 g | [OH-].[K+]
reactant | ethyl 2-(4-methylphenyl)-6-methylimidazo[1,2-a]-pyridine-3-glyoxalate | 0.44 mols, 141.5 g | CC1=CC=C(C=C1)C=1N=C2N(C=C(C=C2)C)C1C(C(=O)OCC)=O | C19H18N2O3
reactant | hydrazine | 0.44 mols, 27.5 g | NN | H4N2
reactant | potassium hydroxide | 0.88 mols, 54.9 g | [OH-].[K+]
reactant | acetic acid | 1.52 mols, 91 g | C(C)(=O)O | C2H4O2
solvent | water | 225 mL | O | H2O
solvent | ethanol | 65 mL | C(C)O | C2H6O
solvent | methanol | 500 mL | CO | CH4O
product | 2-(4-methylphenyl)-6-methylimidazo[1,2-a]-pyridine-3-acetic acid | 118.4 g, yield 96.5% | CC1=CC=C(C=C1)C=1N=C2N(C=C(C=C2)C)C1CC(=O)O | C17H16N2O2
